US07468376B2
4,6-Bis(6-chloropyridin-3-yl)-3-methyl-5-(4-pyridyl)-1H-pyrazolo[3,4-b]pyridine
Following a similar procedure to that described in example 1 method A, but using 1-(6-chloropyridin-3-yl)-2-(4-pyridyl)ethanone (obtained in example reference 9) instead of 1-(4-fluorophenyl)-2-(4-pyridyl)ethanone and 3-amino-5-methyl-2H-pyrazole instead of 3-amino-2H-pyrazole, the title compound was obtained (yield: 9%).

reactant | 1-(6-chloropyridin-3-yl)-2-(4-pyridyl)ethanone | ClC1=CC=C(C=N1)C(CC1=CC=NC=C1)=O | C12H9ClN2O
reactant | 3-amino-5-methyl-2H-pyrazole | NC=1NN=C(C1)C | C4H7N3
product | 4,6-Bis(6-chloropyridin-3-yl)-3-methyl-5-(4-pyridyl)-1H-pyrazolo[3,4-b]pyridine | yield: 9% | ClC1=CC=C(C=N1)C1=C2C(=NC(=C1C1=CC=NC=C1)C=1C=NC(=CC1)Cl)NN=C2C | C22H14Cl2N6
